US04000154
A solution of 5.5 g (18.8 mmole) of methyl cis-3-amino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate in 100 ml of dry toluene was cooled to -78° and 2.5ml (18.8 mmole) of triethylamine was added followed by rapid addition of 35 ml (42mmole) of a 12% solution of phosgene in benzene. The mixture was stirred 15 min at -78°, 3 hours at -45°(acetonitrile-dry ice), then warmed to room temperature and concentrated to half volume in vacuo. To the resulting solution was added 50 ml of t-butanol and the mixture was stirred at room temperature overnight. The solvents were removed in vacuo and the residue diluted with ethyl acetate and filtered. The filtrate was transferred to a separatory funnel and washed with 5% aqueous sodium bicarbonate, 5% hydrochloric acid and brine, dried (MgSO4) and evaporated to dryness. Recrystallization of the crude, crystalline product from ether gave methyl cis-3-t-butoxycarbonylamino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate, mp 134°-135°.

reactant | methyl cis-3-amino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | 18.8 mmole, 5.5 g | N[C@@H]1[C@@H](N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C14H18N2O5
reactant | triethylamine | 18.8 mmole, 2.5ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | acetonitrile dry ice | C(C)#N.C(=O)=O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl cis-3-t-butoxycarbonylamino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C19H26N2O7
